### PR TITLE
Port `algebra/lib/ufrac_auth.v`

### LINKED ISSUE #270: Port algebra/lib/ufrac_auth.v
## Summary

Port [`algebra/lib/ufrac_auth.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/algebra/lib/ufrac_auth.v).

## Subtasks

- [ ] Lemmas
- [ ] Updates
- [ ] Functors

## Dependencies

**Rocq dependencies:**

- #261
- #240
- #229
- #241
- #231

### PR DESCRIPTION
**Pull request by lzy0505**
## Description

Fixes #270

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

## Generative AI Guidelines
AI assistance is permitted when making contributions to Iris-Lean, however, generative AI systems tend to produce code which takes a long time to review. 
Please carefully review your code to ensure it meets the following standards.

- Your PR should avoid duplicating constructions found in Iris-Lean or in the Lean standard library.
- `have` statements that do not aid readability or code reuse should be inlined. 
- Your proofs should be shortened such that their overall structure is explicable to a human reader. As a goal, aim to express one idea per line.
- In general, proofs should not perform substantially more case splitting than their Rocq counterparts.

In our experience, a good place to begin refactoring is by re-arranging and combining independent tactic invocations. 
We also find that pointing generative AI systems to the Mathlib code style guidelines can help them perform some of this refactoring work.

### CODE REVIEW

File: Iris/Iris/Algebra/Lib/UFracAuth.lean [hunk 1]
```diff
@@ -0,0 +1,232 @@
...
+  | some (r, _) =>
+    have hp : p = p + r.frac := UFrac.ext_iff.mp hmc.1
+    grind
+
+@[rocq_alias ufrac_auth_agree]
+theorem agree {p : Qp} {a b : A} (h : ✓ ((●U{p} a : UFracAuth) • ◯U{p} b)) : a ≡ b :=
+  equiv_dist.mpr fun n => agreeN (valid_iff_validN.mp h n)
+
+@[rocq_alias ufrac_auth_agree_L]
+theorem agree_L {p : Qp} {a b : A} (h : ✓ ((●U{p} a : UFracAuth) • ◯U{p} b)) : a = b :=
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Lib/UFracAuth.lean]: `rocq_ignore` this, and change `agree` to use equality.

File: Iris/Iris/Algebra/Lib/UFracAuth.lean [hunk 2]
```diff
@@ -0,0 +1,232 @@
...
+@[rocq_alias ufrac_auth_frag_ne]
+instance frag_ne {q : Qp} : NonExpansive (frag q : A → UFracAuth) where
+  ne _ _ _ h := Auth.frag_ne.ne ⟨.rfl, h⟩
+
+#rocq_ignore ufrac_auth_frag_proper "Derivable from frag_ne with NonExpansive.eqv"
+
+/-! ## Discrete instances -/
+
+@[rocq_alias ufrac_auth_auth_discrete]
+instance auth_discrete {q : Qp} {a : A} [DiscreteE a] : DiscreteE (●U{q} a : UFracAuth) :=
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Lib/UFracAuth.lean:65]: Are all of these UFracAuth annotations actually necessary? I would expect Lean to already have this information from the macro.

File: Iris/Iris/Algebra/Lib/UFracAuth.lean [hunk 3]
```diff
@@ -0,0 +1,232 @@
...
+@[rocq_alias ufrac_auth_frag_valid]
+theorem frag_valid {q : Qp} {a : A} : (✓ (◯U{q} a : UFracAuth)) ↔ ✓ a := by
+  rw [Auth.frag_valid]
+  exact ⟨(·.2), (⟨trivial, ·⟩)⟩
+
+/-! ## Operations -/
+
+@[rocq_alias ufrac_auth_frag_op]
+theorem frag_op {q1 q2 : Qp} {a1 a2 : A} :
+    (◯U{q1 + q2} (a1 • a2) : UFracAuth) ≡ (◯U{q1} a1) • ◯U{q2} a2 := .rfl
```
Comment (markusdemedeiros) [inline Iris/Iris/Algebra/Lib/UFracAuth.lean]: Convert to equality

**Review by markusdemedeiros — APPROVED** [review]

**Comment by markusdemedeiros** [comment]
Looks good. Comments are mostly to update to the new OFE definition.

**Review by Kaptch — APPROVED** [review]
